US04036979
Similarly, diethyl-, dipropyl-, and dibutylcarbamoyl chloride are reacted with 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine to afford 1,1-diethyl-, 1,1-dipropyl-, and 1,1-dibutyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, respectively. Substitution of the above-mentioned carbamoyl chlorides with the corresponding thiocarbamoyl chlorides affords the corresponding thioureas.

reactant | dibutylcarbamoyl chloride | C(CCC)N(C(=O)Cl)CCCC | C9H18ClNO
reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine | S1C2=C(C=C1)C(CCC2)N | C8H11NS
product | 1,1-dibutyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | C(CCC)N(C(=O)NC1CCCC=2SC=CC21)CCCC | C17H28N2OS
